US07399775B2
7-[(4-Chlorophenyl)sulfonyl]-7-(2,5-difluorophenyl)-1-heptanol
In tetrahydrofuran (20 ml) was dissolved 2-[7-(t-butyldiphenylsilyloxy)-1-[(4-chlorophenyl)sulfonyl]heptyl]-1,4-difluorobenzene (786 mg, 1.23 mmol), followed by the dropwise addition of a tetrahydrofuran solution (1.0M, 4.0 ml, 4.0 mmol) of tetrabutylammonium fluoride under ice cooling. The resulting mixture was stirred at room temperature for 14 hours. After addition of water (2 ml), the mixture was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel chromatography, and the fraction obtained from the hexane:ethyl acetate=2:1 eluate was concentrated under reduced pressure to give a white solid. The white solid was washed with hexane, whereby the title compound (403 mg, 1.00 mmol, 81%) was obtained as a white powder.

reactant | 2-[7-(t-butyldiphenylsilyloxy)-1-[(4-chlorophenyl)sulfonyl]heptyl]-1,4-difluorobenzene | 1.23 mmol, 786 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCCCCC(S(=O)(=O)C1=CC=C(C=C1)Cl)C1=C(C=CC(=C1)F)F | C35H39ClF2O3SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 2 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 4.0 mmol, 1.0M, 4.0 ml | O1CCCC1 | C4H8O
product | 7-[(4-Chlorophenyl)sulfonyl]-7-(2,5-difluorophenyl)-1-heptanol | 1.00 mmol, 403 mg, 81% | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCCCO)C1=C(C=CC(=C1)F)F | C19H21ClF2O3S
